US07074817B2
1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indole
1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indole was prepared by coupling 1-benzyl-5-bromo-1H-indole (1.44 g, 5.03 mmol), and 3,5-bis-(trifluoromethyl)phenylboronic acid (1.63 g, 6.32 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.211 g, 0.258 mmol), and potassium carbonate (1.38 g, 9.98 mmol) in dioxane (54 mL) and water (5.4 mL) following the procedure described in Step 1 of Example 11. The reaction mixture was heated to 85° C. for 3 hours. Purification by HPLC using 10% methylene chloride in hexane as the mobile phase furnished the title compound as a light yellow solid (1.08 g, 51%), mp: 90-95° C. 1HNMR (200 MHz, DMSO-d6): δ 8.3 (s, 2H), 8.1 (s, 1H), 8.0 (s, 1H), 7.6 (s, 3H), 7.15-7.4 (m, 5H), 6.6 (d, 1H, J=2.6 Hz), and 5.5 ppm (s, 2H).

reactant | 1-benzyl-5-bromo-1H-indole | 5.03 mmol, 1.44 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | 3,5-bis-(trifluoromethyl)phenylboronic acid | 6.32 mmol, 1.63 g | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | dichloromethane | 0.258 mmol, 0.211 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 9.98 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 54 mL | O1CCOCC1 | C4H8O2
solvent | water | 5.4 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indole | 1.08 g, 51% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H15F6N
